US05977152
6-(2,2,3,3-Tetrafluoropropoxy)nicotinaldehyde
2-(2,2,3,3-Tetrafluoropropoxy)-5-(hydroxymethyl)pyridine was treated with active manganese dioxide in the same manner as in Reference example 22 to obtain the title compound as an oil in a yield of 96%.

reactant | 2-(2,2,3,3-Tetrafluoropropoxy)-5-(hydroxymethyl)pyridine | FC(COC1=NC=C(C=C1)CO)(C(F)F)F | C9H9F4NO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 6-(2,2,3,3-Tetrafluoropropoxy)nicotinaldehyde | yield of 96% | FC(COC1=NC=C(C=O)C=C1)(C(F)F)F | C9H7F4NO2
